US06864255B2
2,4-Dichloro-1,3,5-triazine (3 g, 20 mmol) was dissolved in DMF (20 mL) under N2 and cooled to 0° C. DIEA (2.58 g, 20 mmol) was added, followed by 3-chloro-6-methylaniline (2.83 g, 20 mmol). The reaction solution was stirred with gradual warming to RT. The reaction was quenched after 3 h with water, then extracted 3 times with EtOAc. The EtOAc extracts were washed with brine, combined, dried over Na2SO4, filtered, and concentrated. The crude was purified by silica gel chromatography (25%, 40%, 60% EtOAc/Hexane step gradient) giving (5-chloro-2-methyl-phenyl)-(4-chloro-[1,3,5]triazin-2-yl)-amine as a white solid.

reactant | 2,4-Dichloro-1,3,5-triazine | 20 mmol, 3 g | ClC1=NC=NC(=N1)Cl | C3HCl2N3
reactant | DIEA | 20 mmol, 2.58 g | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-chloro-6-methylaniline | 20 mmol, 2.83 g | ClC=1C=C(N)C(=CC1)C | C7H8ClN
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | (5-chloro-2-methyl-phenyl)-(4-chloro-[1,3,5]triazin-2-yl)-amine | ClC=1C=CC(=C(C1)NC1=NC=NC(=N1)Cl)C | C10H8Cl2N4
